* source PROIECT1_OPREACOSMIN_N18
R_R2         N189847 N1896251  51 TC=0,0 
R_R6         N188663 N188539  10 TC=0,0 
R_R1         N189847 N189675  68 TC=0,0 
Q_Q5         N188797 N188797 N188663 QBC856B 
R_R4         N189127 N189515  10k TC=0,0 
Q_Q6         N188819 N188797 N188669 QBC856B 
Q_Q4         N188819 IN+ N189245 QBC817-25 
Q_Q1         N189567 N189567 N189675 QBC846B 
R_RL1         N231069 N1892590  15k TC=0,0 
R_R7         N188669 N188539  10 TC=0,0 
C_C5         IN+ N189005  2.2n  TC=0,0 
R_R5         N189027 N189127  22k TC=0,0 
X_P3         N189027 N189005 N189005 POT PARAMS: SET=0.2 VALUE=10k
X_P1         0 N189825 N189671 POT PARAMS: SET=0.1 VALUE=500k
X_D3         N189671 N189387 awb1n4148 PARAMS:                
R_Rf         N189567 0  1k TC=0,0 
Q_Q3         N188797 N189127 N189199 QBC817-25 
R_R8         N189027 N189387  4.7k TC=0,0 
Q_Q2         N189351 N189567 N1896251 QBC846B 
C_C4         0 N189671  470n  TC=0,0 
X_P2         IN+ 0 0 POT PARAMS: SET=0.2 VALUE=10k
X_P4         N189199 N189351 N189245 POT PARAMS: SET=0.5 VALUE=100
C_C2         0 IN+  2.2n  TC=0,0 
J_T1         0 N189825 N189515 JMMBFJ309LT1 
V_V3         N188539 0 5
V_V4         0 N189847 5
X_D6         N188539 N211822 LED PARAMS: IS=5.6404e-029 RS=25  BV=5 IBV=5E-6   
+       
R_RD6         0 N211822  100 TC=0,0 
X_D7         N212519 N189847 LED PARAMS: IS=5.6404e-029 RS=25  BV=5 IBV=5E-6   
+       
R_RD7         N212519 0  100 TC=0,0 
Q_Q8         N189027 N189567 N2182811 QBC846B 
R_R3         N189847 N2182811  22 TC=0,0 
Q_Q7         N189027 N188819 N188539 QBC856B 
C_C6         N188819 N189027  470p  TC=0,0 
X_P5         N189027 N231069 0 POT PARAMS: SET=0.375 VALUE=10k
R_RL3         0 N2410220  1k TC=0,0 
R_RL2         N2410220 N1892590  2k TC=0,0 
